US08022222B2
Step D: Preparation of 1-(4-(4-methoxybenzylthio)-5-bromopyridin-2-yl)-3-benzoylthiourea:
4-(4-methoxybenzylthio)-5-bromopyridin-2-amine (7.45 g, 22.9 mmol) was dissolved in THF (80 mL). Benzoyl isothiocyanate (3.4 ml, 25 mmol) was added, and the reaction was stirred overnight at ambient temperature. The solution was diluted in 9:1 hexanes:EtOAc and stirred for 5 minutes, then filtered and dried to provide the desired product (8.5 g, 76% yield) as a brown solid.

reactant | 4-(4-methoxybenzylthio)-5-bromopyridin-2-amine | 22.9 mmol, 7.45 g | COC1=CC=C(CSC2=CC(=NC=C2Br)N)C=C1 | C13H13BrN2OS
reactant | Benzoyl isothiocyanate | 25 mmol, 3.4 ml | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 1-(4-(4-methoxybenzylthio)-5-bromopyridin-2-yl)-3-benzoylthiourea | 8.5 g, 76% yield | COC1=CC=C(CSC2=CC(=NC=C2Br)NC(=S)NC(C2=CC=CC=C2)=O)C=C1 | C21H18BrN3O2S2
